US07825253B2
(5-Methyl-furan-2-ylmethyl)-[5-((E)-2-pyridin-2-yl-vinyl)-quinolin-2-yl]-amine
The title compound, MS: m/e=342.1 (M+H+), was prepared in accordance with the general method of example 2 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 2-vinylpyridine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
product | (5-Methyl-furan-2-ylmethyl)-[5-((E)-2-pyridin-2-yl-vinyl)-quinolin-2-yl]-amine | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)\C=C\C1=NC=CC=C1 | C22H19N3O
